US08563735B2
(difluoromethyl)(2-fluorophenyl)sulfane
Powdered NaOH (31.2 g), tris(2-(2-methoxyethoxy)ethyl)amine (5 mL) and 2-fluorobenzene thiol (33.6 mL) in benzene (400 mL) was saturated with chlorodifluoromethane, stirred at 80° C. for 30 minutes and filtered through diatomaceous earth (Celite®). The filtrate was washed with saturated NaHCO3 and the water layer was extracted with diethyl ether. The extracts were combined and dried (MgSO4), filtered and concentrated.

reactant | NaOH | 31.2 g | [OH-].[Na+]
reactant | tris(2-(2-methoxyethoxy)ethyl)amine | 5 mL | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
reactant | 2-fluorobenzene thiol | 33.6 mL | FC1=C(C=CC=C1)S | C6H5FS
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | benzene | 400 mL | C1=CC=CC=C1 | C6H6
product | (difluoromethyl)(2-fluorophenyl)sulfane | FC(F)SC1=C(C=CC=C1)F | C7H5F3S
